US04000144
A solution of 12.2 g of 3-[4-(1-adamantyl)-phenoxy]-crotonic acid ethyl ester in 120 ml of ethanol and 24 ml of 2 N sodium hydroxide solution is stirred for 5 days at about 25° C. It is then evaporated in vacuo to a volume of approx. 20 ml and the residue is partitioned between twice 200 ml of methylene chloride and 200 ml of 2 N hydrochloric acid. The organic phases are washed until neutral, treated with active charcoal, dried over sodium sulphate and evaporated in vacuo. Crystallisation of the evaporation residue from ethanol gives 3-[4-(1-adamantyl)-phenoxy]-crotonic acid of melting point 215°-218° C (decomposition).

reactant | 3-[4-(1-adamantyl)-phenoxy]-crotonic acid ethyl ester | 12.2 g | C(C)OC(\C=C(\C)/OC1=CC=C(C=C1)C12CC3CC(CC(C1)C3)C2)=O | C22H28O3
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2 N, 24 ml | [OH-].[Na+]
product | 3-[4-(1-adamantyl)-phenoxy]-crotonic acid | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(O\C(=C/C(=O)O)\C)C=C2 | C20H24O3
